US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(quinolin-3-ylmethyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with quinolin-3-ylmethanaminium chloride, the title compound was obtained as a colorless solid in 50% yield: 1H NMR (300 MHz, CDCl3) δ 8.91 (s, 1H), 8.15-8.08 (m, 2H), 7.81 (d, J=8.2 Hz, 1H), 7.74-7.66 (m, 1H), 7.58-7.51 (m, 1H), 7.30-7.22 (m, 2H), 7.07-6.98 (m, 2H), 6.22 (t, J=5.6 Hz, 1H), 6.09 (s, 1H), 4.74 (d, J=5.6 Hz, 2H), 4.42 (s, 2H), 3.83-3.74 (m, 2H), 3.47-3.38 (m, 2H), 2.50 (s, 3H); MS (ES+) m/z 475.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | quinolin-3-ylmethanaminium chloride | [Cl-].N1=CC(=CC2=CC=CC=C12)C[NH3+]
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(quinolin-3-ylmethyl)thiophene-2-carboxamide | 50% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2C=NC3=CC=CC=C3C2)C)=O)C=C1 | C26H23FN4O2S
